US08202856B2
[1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)piperidin-3-yl]methanol
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde, obtained as described in Example 113, Step 1, (100 mg; 0.24 mmol) and 3-hydroxymethylpiperidine (55.9 mg; 0.48 mmol) to give Example 140 as a white solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.75 (2H, dd, J=4.5, 1.6 Hz), 7.97-7.87 (3H, m), 7.76-7.69 (1H, m), 7.61 (2H, dd, J=4.5, 1.7 Hz), 7.55-7.48 (4H, m), 4.40 (1H, t, J=5.2 Hz), 3.61-3.48 (2H, m), 3.34-3.27 (1H, m), 3.25-3.17 (1H, m), 2.87 (1H, d, J=9.3 Hz), 2.74 (1H, d, J=10.9 Hz), 1.96 (1H, t, J=11.0 Hz), 1.76-1.62 (4H, m), 1.50 (1H, d, J=12.6 Hz), 0.92 (1H, d, J=12.3 Hz). LC/MS (Method C): 512 (M+H)+. HPLC (Method E) Rt 2.16 min (Purity: 99.3%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | 3-hydroxymethylpiperidine | 0.48 mmol, 55.9 mg | OCC1CNCCC1 | C6H13NO
product | [1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)piperidin-3-yl]methanol | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(CN2CC(CCC2)CO)C=C1 | C28H26FN7O2
